US07241769B2
N-(3-fluoro-2-formyl-phenyl)-acetamide
1.37 g (9.85 mmol) 2-amino-6-fluoro-benzaldehyde are combined with 20 ml acetic anhydride and heated to 70° C. for 4 h. Then the reaction mixture is stirred into 200 ml dist. water, adjusted to pH 7 with Na2CO3 and extracted three times with 50 ml of ethyl acetate. Then the organic phase is dried with MgSO4, the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is silica gel and the eluant used is a mixture of cyclohexane:ethyl acetate (80:20).

reactant | 2-amino-6-fluoro-benzaldehyde | 9.85 mmol, 1.37 g | NC1=C(C=O)C(=CC=C1)F | C7H6FNO
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | N-(3-fluoro-2-formyl-phenyl)-acetamide | FC=1C(=C(C=CC1)NC(C)=O)C=O | C9H8FNO2
